US06291464B1
To a solution of 25% hydrogen bromide-acetic acid (30 ml) and anisole (1.6 ml) was added N-(4-benzyloxycarbonyl-1-piperazinyl)-p-fluorobenzamide (10 g) dropwise for 15 minutes under nitrogen atmosphere. The reaction mixture was stirred at ambient temperature for 3 hours. The resulting precipitate was collected and washed with diethyl ether (10 ml) to give N-piperazinyl-p-fluorobenzamide hydrobromide (10.2 g) as white hydroscopic solid.

reactant | anisole | 1.6 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | N-(4-benzyloxycarbonyl-1-piperazinyl)-p-fluorobenzamide | 10 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)NC(C1=CC=C(C=C1)F)=O | C19H20FN3O3
reactant | hydrogen bromide acetic acid | 30 ml | Br.C(C)(=O)O
product | N-piperazinyl-p-fluorobenzamide hydrobromide | 10.2 g | Br.N1(CCNCC1)NC(C1=CC=C(C=C1)F)=O | InChI=1S/C11H14FN3O.BrH/c12-10-3-1-9(2-4-10)11(16)14-15-7-5-13-6-8-15;/h1-4,13H,5-8H2,(H,14,16);1H
